US08119692B2
(S)-methyl 6-(benzyloxy)-2-((R)-2-(4-fluorophenyl)-2-methoxyethyl)hex-4-enoate (Intermediate D7)
To a solution of ((S)-6-(benzyloxy)-2-((R)-2-(4-fluorophenyl)-2-methoxyethyl)hex-4-enoic acid in 10 mL methanol was added concentrated H2SO4 (150 μL) at room temperature and the resulting solution stirred for 8 h. The reaction mixture was concentrated under reduced pressure, the residue treated with water, and the mixture was extracted with ethyl acetate (3×40 mL). The combined organic layers were washed with brine (2×30 mL) and dried over Na2SO4. The product was isolated by flash column chromatography eluting with 0% to 20% ethyl acetate/hexane gradient solvent to give 494 mg of the title compound as a colorless oil.

reactant | (S)-6-(benzyloxy)-2-((R)-2-(4-fluorophenyl)-2-methoxyethyl)hex-4-enoic acid | C(C1=CC=CC=C1)OCC=CC[C@H](C(=O)O)C[C@@H](OC)C1=CC=C(C=C1)F | C22H25FO4
reactant | H2SO4 | 150 μL | OS(=O)(=O)O | H2O4S
reactant | methanol | 10 mL | CO | CH4O
product | (S)-methyl 6-(benzyloxy)-2-((R)-2-(4-fluorophenyl)-2-methoxyethyl)hex-4-enoate | 494 mg | C(C1=CC=CC=C1)OCC=CC[C@H](C(=O)OC)C[C@@H](OC)C1=CC=C(C=C1)F | C23H27FO4
